US08022222B2
Methyl 3-hydroxybenzoate (2.88 g, 18.9 mmol) was added to a mixture of 60% sodium hydride in mineral oil (0.757 g, 18.9 mmol) in DMF (20 mL). The reaction mixture was stirred for 20 minutes and then cooled in an ice bath. 2-Chloro-4-nitropyridine (3.00 g, 18.9 mmol) was added and the reaction mixture was stirred for 1 hour at 0° C., and then overnight at room temperature. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed twice with water and brine, dried, and concentrated. The residue was purified by MPLC (Biotage) eluting with 5:1 hexane:ethyl acetate to afford methyl 3-(2-chloropyridin-4-yloxy)benzoate (4.49 g, 90.0% yield) as a thick oil. 1H NMR (CDCl3) δ 8.26 (d, 1H), 7.98 (d, 1H), 7.77 (s, 1H), 7.54 (t, 1H), 7-31 (d, 1H), 6.82 (s, 1H), 6.79 (d, 1H).

reactant | Methyl 3-hydroxybenzoate | 18.9 mmol, 2.88 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-Chloro-4-nitropyridine | 18.9 mmol, 3.00 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | methyl 3-(2-chloropyridin-4-yloxy)benzoate | 4.49 g, 90.0% yield | ClC1=NC=CC(=C1)OC=1C=C(C(=O)OC)C=CC1 | C13H10ClNO3
